US07208494B2
(4R,9aR)-6-Ethylsulfanyl-4-methyl-3,4,9,9a-tetrahydro-1H-2,4a,5-triaza-fluorene-2-carboxylic acid tert-butyl ester
A solution of n-butyl lithium (1.6 M in hexanes, 0.5 mL, 0.8 mmol) in tetrahydrofuran (5 mL) was stirred at −78° C. for 5 min. under an argon atmosphere. A mixture of (4R,9aR)-6-bromo-4-methyl-3,4,9,9a-tetrahydro-1H-2,4a,5-triaza-fluorene-2-carboxylic acid tert-butyl ester (0.2 g, 0.54 mmol) in tetrahydrofuran (5 mL) was added dropwise, maintaining the temperature below −70° C. The resultant dark red solution was left to stir at −78° C. for 30 min then ethyl disulfide (0.13 mL, 1.08 mmol) was added. The mixture was left to stir at −78° C. for 2 h, then left to warm to room temperature over 2 h. Water (1 mL) was added and the mixture was poured onto an isolute HM-N SPE cartridge and eluted with ethyl acetate (10 mL). The eluent was evaporated under reduced pressure and the crude material was purified by reverse phase preparative HPLC (Prep Nova-Pak HR C18 6 mm 60 Å 30 mm×300 mm column, UV detection at 254 nm, mobile phase 95:5 methanol:water and 10 mmol ammonium acetate, gradient 50 methanol to 100% 0 to 10 min then 100% methanol to 13 min, 20 mL/min) to give the title compound (0.071 g, 53% yield) as a pale yellow oil: m/z M+ 350.14 (M+1); HPLC (50% to 80% gradient [95:5 MeOH:water, 10 mmol ammonium acetate] 220 nm XTERRA 2.0 mL/min) 6.21 min.

reactant | n-butyl lithium | 0.8 mmol, 1.6 M, 0.5 mL | C(CCC)[Li]
reactant | (4R,9aR)-6-bromo-4-methyl-3,4,9,9a-tetrahydro-1H-2,4a,5-triaza-fluorene-2-carboxylic acid tert-butyl ester | 0.54 mmol, 0.2 g | C(C)(C)(C)OC(=O)N1C[C@H]2CC3=CC=C(N=C3N2[C@@H](C1)C)Br | C16H22BrN3O2
reactant | ethyl disulfide | 1.08 mmol, 0.13 mL | C(C)SSCC | C4H10S2
reactant | ammonium acetate | 10 mmol | C(C)(=O)[O-].[NH4+]
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
solvent | methanol | CO | CH4O
solvent | water | O | H2O
solvent | Water | 1 mL | O | H2O
product | (4R,9aR)-6-Ethylsulfanyl-4-methyl-3,4,9,9a-tetrahydro-1H-2,4a,5-triaza-fluorene-2-carboxylic acid tert-butyl ester | 0.071 g, 53% yield | C(C)(C)(C)OC(=O)N1C[C@H]2CC3=CC=C(N=C3N2[C@@H](C1)C)SCC | C18H27N3O2S
